US05444050
3-Hydroxymethylbenzeneboronic acid (1.8 g, 11.8 mmol), 3-bromophenylacetic acid (2.55 g, 11.8 mmol), tribasic potassium phosphate, (7.54 g, 35.5 mmol), DMF (55 ml), and water (20 ml) were degassed under nitrogen in a 250 ml flask fitted with a reflux condenser. Bis[triphenylphosphine]palladium(II) chloride (0.17 g, 0.24 mmol) was added. The mixture was degassed under nitrogen, and heated at 90° C. overnight, then acidified with 2N HCl, mixed with brine (15 ml), and extracted with methylene chloride (3×15 ml). The organic materials were combined, dried (MgSO4), then concentrated under reduced pressure which gave 3.0 g of 3-(3-hydroxymethylphenyl)phenyl acetic acid.

reactant | 3-Hydroxymethylbenzeneboronic acid | 11.8 mmol, 1.8 g | OCC=1C=C(C=CC1)B(O)O | C7H9BO3
reactant | 3-bromophenylacetic acid | 11.8 mmol, 2.55 g | BrC=1C=C(C=CC1)CC(=O)O | C8H7BrO2
reactant | potassium phosphate | 35.5 mmol, 7.54 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | DMF | 55 ml | CN(C)C=O | C3H7NO
solvent | water | 20 ml | O | H2O
product | 3-(3-hydroxymethylphenyl)phenyl acetic acid | 3.0 g | OCC=1C=C(C=CC1)C=1C=C(C=CC1)CC(=O)O | C15H14O3
